US07470691B2
2-{[4-(2-pyrimidinyl)-1-piperazinyl]methyl}-1H-pyrrolo[2,3-b]pyridine
1H-pyrrolo[2,3-b]pyridine (47 mg, 0.40 mmol), 2-(1-piperazinyl)pyrimidine (65 mg, 0.48 mmol), sodium acetate (72 mg, 0.53 mmol), and formaldehyde (0.48 mmol) were processed as described in Example 18 to provide the title compound. 1H NMR (300 MHz, DMSO-d6) δ 2.42 (m, 4H) 3.68 (m, 4H) 4.05 (s, 2H) 5.59 (s, 1H) 6.60 (m, 1H) 7.08 (m, 2H) 7.37 (m, 2H 8.07 (m, 2H). (ESI) m/z 295 (M+H)+.

reactant | 1H-pyrrolo[2,3-b]pyridine | 0.40 mmol, 47 mg | N1C=CC=2C1=NC=CC2 | C7H6N2
reactant | 2-(1-piperazinyl)pyrimidine | 0.48 mmol, 65 mg | N1(CCNCC1)C1=NC=CC=N1 | C8H12N4
reactant | sodium acetate | 0.53 mmol, 72 mg | C(C)(=O)[O-].[Na+]
reactant | formaldehyde | 0.48 mmol | C=O | CH2O
product | 2-{[4-(2-pyrimidinyl)-1-piperazinyl]methyl}-1H-pyrrolo[2,3-b]pyridine | N1=C(N=CC=C1)N1CCN(CC1)CC1=CC=2C(=NC=CC2)N1 | C16H18N6
